US08975254B2
N—((S)-1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)oxazole-4-carboxamide
Sodium borohydride (0.037 g, 0.971 mmol) was added into a flask and the atmosphere was replaced with nitrogen. Dry ethanol was added and the reaction mixture was cooled to 0° C. (S)-2-acetyl-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide (0.2 g, 0.486 mmol) was added and the reaction mixture was warmed slowly to RT while stirring overnight. The crude product was cooled to 0° C., the pH was adjusted below 7 and the mixture was evaporated. 5% of DCM/MeOH was added and the crude product was washed with 1M NaHCO3, water and dried. The product was purified with Flash-chromatography. Yield 55.4%. 1H-NMR (400 MHz; CDCl3): δ 1.25 (d, 3H), 1.59 (d, 3H), 2.50 (s, 1H), 2.58 (s, 3H), 4.30 (dd, 1H), 4.42 (dd, 1H), 4.59 (m, 1H), 4.94 (m, 1H), 6.44 (d, 1H), 7.54 (m, 4H), 8.14 (s, 1H).

reactant | Sodium borohydride | 0.971 mmol, 0.037 g | [BH4-].[Na+]
reactant | (S)-2-acetyl-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide | 0.486 mmol, 0.2 g | C(C)(=O)C=1OC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=C(C(=C(C=C1)C#N)Cl)C)C | C20H18ClN5O3
solvent | ethanol | C(C)O | C2H6O
product | N—((S)-1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)oxazole-4-carboxamide | Yield 55.4% | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(OC1)C(C)O)C | C20H20ClN5O3
